US06706743B2
tert-Butyl-{2-[4-(5-methyl-4H-[1,2,4]triazol-3-ylmethyl)-phenoxy]-ethyl}-carbamate
tert-Butyl-[2-(4-carbamoylmethyl-phenoxy)-ethyl]-carbamate (605 mg, 2.05 mmol) and N,N-dimethylacetamide dimethylacetal (5 ml) were combined and heated to about 120° C. for about ninety minutes. The orange solution was then allowed to cool to room temperature and was concentrated in vacuo. The resulting oil was then dissolved in acetic acid (6 ml), and hydrazine hydrate (0.20 ml, 4.10 mmol) was added to the solution. The mixture was heated to about 90° C. for about ninety minutes and was then poured into water and brought to pH 7 by adding 5M sodium hydroxide. The material was then partitioned between ethyl acetate and saturated aqueous sodium bicarbonate, and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (silica gel; chloroform to 4% methanol/chloroform) to afford 403 mg (59% yield) of the desired product. LRMS ([M+H]+)=333.2.

reactant | tert-Butyl-[2-(4-carbamoylmethyl-phenoxy)-ethyl]-carbamate | 2.05 mmol, 605 mg | C(C)(C)(C)OC(NCCOC1=CC=C(C=C1)CC(N)=O)=O | C15H22N2O4
reactant | N,N-dimethylacetamide dimethylacetal | 5 ml | COC(C)(N(C)C)OC | C6H15NO2
reactant | hydrazine hydrate | 4.10 mmol, 0.20 ml | O.NN
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | water | O | H2O
product | tert-Butyl-{2-[4-(5-methyl-4H-[1,2,4]triazol-3-ylmethyl)-phenoxy]-ethyl}-carbamate | 403 mg, 59% yield | C(C)(C)(C)OC(NCCOC1=CC=C(C=C1)CC1=NN=C(N1)C)=O | C17H24N4O3
